US04011320
1.3 G. of 1-amino-2-nitro-4-methoxyethylthiobenzene is treated in 80 ml. methanol and 20 ml. water at reflux under nitrogen, with 0.7 g. ferrous sulfate and 2.8 g. iron (added in two portions) for 4 hours. The mixture is filtered, stripped under vacuum, and the residue recrystallized from cyclohexane. 1,2-Diamino-4-methoxymethylthiobenzene is thus obtained.

reactant | 1-amino-2-nitro-4-methoxyethylthiobenzene | NC1=C(C=C(C=C1)SCCOC)[N+](=O)[O-] | C9H12N2O3S
reactant | methanol | CO | CH4O
catalyst | iron | [Fe] | Fe
solvent | water | O | H2O
product | 1,2-Diamino-4-methoxymethylthiobenzene | NC1=C(C=C(C=C1)SCOC)N | C8H12N2OS
